US07741327B2
A solution of 2-[2-(2-chloro-phenoxy)-3-ethoxycarbonyl-allylamino]-5,5,5-trifluoro-4-methyl-pentanoic acid methyl ester (726 mg, 1.66 mmol) in acetonitrile (5 mL) was placed in a sealed microwave reaction tube and heated in a microwave reactor at 140° C. for 2.5 h. The mixture was then concentrated in vacuo and purified by AnaLogix IntelliFlash flash chromatography (12 g column, 10% ethyl acetate/hexanes to 40% ethyl acetate/hexanes) which afforded 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-methyl-pentanoic acid methyl ester (379 mg, 58%) as a yellow oil.

reactant | 2-[2-(2-chloro-phenoxy)-3-ethoxycarbonyl-allylamino]-5,5,5-trifluoro-4-methyl-pentanoic acid methyl ester | 1.66 mmol, 726 mg | COC(C(CC(C(F)(F)F)C)NCC(=CC(=O)OCC)OC1=C(C=CC=C1)Cl)=O | C19H23ClF3NO5
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-methyl-pentanoic acid methyl ester | 379 mg, 58% | COC(C(CC(C(F)(F)F)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C17H17ClF3NO4
